US07790751B2
3-(1-Naphthylsulfanyl)-5-nitro-1H-indazole
A mixture of 3-iodo-5-nitro-1H-indazole (10.00 g, 34.60 mmol), 1-naphthylthiol (5.54 g, 34.60 mmol), CuI (0.659 g, 3.46 mmol) and ethylene glycol (4.30 g, 69.20 mmol) in isopropanol was heated at 90° C. under nitrogen overnight, cooled, diluted with 30% MeOH in CH2Cl2, and filtered through a pad of silica gel. The filtrate was concentrated in vacuo. The concentrate was purified by chromatography with 1% MeOH in CH2Cl2 to provide the title compound, 5.5 g (49% yield), characterized by NMR and mass spectral analyses.

reactant | 3-iodo-5-nitro-1H-indazole | 34.60 mmol, 10.00 g | IC1=NNC2=CC=C(C=C12)[N+](=O)[O-] | C7H4IN3O2
reactant | 1-naphthylthiol | 34.60 mmol, 5.54 g | C1=CC=C2C(=C1)C=CC=C2S | C10H8S
reactant | ethylene glycol | 69.20 mmol, 4.30 g | C(CO)O | C2H6O2
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | CuI | 3.46 mmol, 0.659 g | [Cu]I
product | 3-(1-Naphthylsulfanyl)-5-nitro-1H-indazole | 49% yield | C1(=CC=CC2=CC=CC=C12)SC1=NNC2=CC=C(C=C12)[N+](=O)[O-] | C17H11N3O2S
